US07223776B2
2-[4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexylamino]-N-pyridin-2-yl-acetamide
2-Bromo-N-pyridin-2-yl-acetamide (0.075 g, 0.35 mmol) and potassium carbonate (0.054 g, 0.39 mmol) were added to a solution of 4-(6-methoxy-quinazolin-4-yloxymethyl)-cyclohexylamine (0.1 g, 0.35 mmol) in DMF (3.5 ml). The reaction mixture was stirred at room temperature for 2 days and then concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (dichloromethane/MeOH 19/1 1% NH4OH).

reactant | 2-Bromo-N-pyridin-2-yl-acetamide | 0.35 mmol, 0.075 g | BrCC(=O)NC1=NC=CC=C1 | C7H7BrN2O
reactant | potassium carbonate | 0.39 mmol, 0.054 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(6-methoxy-quinazolin-4-yloxymethyl)-cyclohexylamine | 0.35 mmol, 0.1 g | COC=1C=C2C(=NC=NC2=CC1)OCC1CCC(CC1)N | C16H21N3O2
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 2-[4-(6-Methoxy-quinazolin-4-yloxymethyl)-cyclohexylamino]-N-pyridin-2-yl-acetamide | COC=1C=C2C(=NC=NC2=CC1)OCC1CCC(CC1)NCC(=O)NC1=NC=CC=C1 | C23H27N5O3
